US05498609
To a solution of 7-chloro-5-(2-methanesulfonyloxyethyl)-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (1.6 g) in dimethylformamide (30 ml) is added potassium phthalimide (0.58 g), and the mixture is stirred at 110° C. for 3 hours. The mixture is poured into ice-water, and the mixture is extracted with dichloromethane. The extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography to give 7-chloro-5-(2-phthalimidoethyl)-1-[6-(2-chlorobenzoyl-amino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (1.8 g) as colorless amorphous.

reactant | 7-chloro-5-(2-methanesulfonyloxyethyl)-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 1.6 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)CCOS(=O)(=O)C)C1 | C26H25Cl2N3O5S
reactant | potassium phthalimide | 0.58 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 7-chloro-5-(2-phthalimidoethyl)-1-[6-(2-chlorobenzoyl-amino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 1.8 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)CCN2C(C=3C(C2=O)=CC=CC3)=O)C1 | C33H26Cl2N4O4
